US07645789B2
To a solution of 2-tert-butyl-6-nitro-1H-indole (1.3 g, 6.0 mmol) in MeOH (10 mL) was added Raney Nickel (0.2 g). The mixture was hydrogenated under 1 atm of hydrogen at room temperature for 3 h. The reaction mixture was filtered and the filtrate was concentrated. The residue was washed with petroleum ether to give 2-tert-butyl-1H-indol-6-amine (1.0 g, 89%). 1H NMR (300 MHz, DMSO-d6) δ 10.19 (s, 1H), 6.99 (d, J=8.1 Hz, 1H), 6.46 (s, 1H), 6.25 (dd, J=1.8, 8.1 Hz, 1H), 5.79 (d, J=1.8 Hz, 1H), 4.52 (s, 2H), 1.24 (s, 9H); MS (ESI) m/e (M+H+) 189.1.

reactant | 2-tert-butyl-6-nitro-1H-indole | 6.0 mmol, 1.3 g | C(C)(C)(C)C=1NC2=CC(=CC=C2C1)[N+](=O)[O-] | C12H14N2O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Raney Nickel | 0.2 g | [Ni] | Ni
product | 2-tert-butyl-1H-indol-6-amine | 1.0 g, 89% | C(C)(C)(C)C=1NC2=CC(=CC=C2C1)N | C12H16N2
